US06509346B2
To a cold (0° C.) stirred solution of 4-oxohomopiperidine.HCl (0.6 g, 4.05 mmol), K2CO3 (0.615 g, 4.46 mmol) in anhydrous THF (10 mL) will be ethyl chloroformate (0.44 mL, 4.05 mmol) dropwise. The reaction was warmed to RT for 2 hrs then quenched with H2O, extracted with EtOAc, and the organic layer dried over Na2SO4. Pure 1-ethylcarbonyl-4-oxohomopiperidine will be isolated via silica gel flash chromatography

reactant | 4-oxohomopiperidine | O=C1CCNCCC1 | C6H11NO
reactant | HCl | 4.05 mmol, 0.6 g | Cl | ClH
reactant | K2CO3 | 4.46 mmol, 0.615 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl chloroformate | 4.05 mmol, 0.44 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-ethylcarbonyl-4-oxohomopiperidine | C(C)C(=O)N1CCC(CCC1)=O | C9H15NO2
